* C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\LTspice\opamp LM833.asc
XU1 N001 N002 +Vcc -Vcc Vout LM833
R1 N002 0 {mc(1k,tol)}
R2 Vout N002 {mc(82k,tol)}
R3 N001 Vin {mc(220k,tol)}
Vin Vin 0 AC 100m
V2 +Vcc 0 15
V3 -Vcc 0 -15
.ac dec 100 1000 1Meg
.param tol=0.05
.step param run 1 18 1
.lib C:\Users\facun\OneDrive\Desktop\ITBA\5C TC\TP2\TP2\EJ2\Modelos de SPICE de opamps\LM833 ST\Opamps_Comparators_ST.lib
.backanno
.end
